US04760163
using isopropyl 2-chloro-5-{3-[2-(ethoxycarbonyl)-1-trifluoromethylvinyl]thioureido}-benzoate with sodium isopropylate is an isopropanol/dimethylformamide mixture there is obtained isopropyl 2-chloro-5-[3,6-dihydro-4-trifluoromethyl-6-oxo-2-thioxo-1(2H)-pyrimidinyl]benzoate,

reactant | isopropyl 2-chloro-5-{3-[2-(ethoxycarbonyl)-1-trifluoromethylvinyl]thioureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C=C1)NC(=S)NC(=CC(=O)OCC)C(F)(F)F | C17H18ClF3N2O4S
reactant | sodium | [Na] | Na
solvent | isopropanol dimethylformamide | C(C)(C)O.CN(C=O)C
product | isopropyl 2-chloro-5-[3,6-dihydro-4-trifluoromethyl-6-oxo-2-thioxo-1(2H)-pyrimidinyl]benzoate | ClC1=C(C(=O)OC(C)C)C=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=S | C15H12ClF3N2O3S
